US06121285
1-[1-Benzyloxycarbonyl-4-(R)-methoxy-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid
Under a nitrogen atmosphere, 60% sodium hydride (0.149 g, 3.73 mmol) was suspended in anhydrous tetrahydrofuran (20 ml) to which, after cooling to 0° C., was subsequently added dropwise a dry tetrahydrofuran (20 ml) solution of 1-benzyloxycarbonyl-3-(S)-hydroxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine (0.98 g, 2.92 mmol) over a period of 5 minutes. After 15 minutes of stirring in an ice bath, dimethyl sulfate (0.441 ml, 4.66 mmol) was added dropwise to the reaction solution which was cooled in the ice bath. The reaction solution was stirred at room temperature for 4 hours and then mixed with water (0.5 ml), followed by evaporating tetrahydrofuran under reduced pressure. The thus obtained residue was dissolved in ethanol (40 ml), and a 1 M sodium hydroxide aqueous solution (8.76 ml) was added dropwise to the resulting solution at room temperature. The reaction solution was heated under reflux for 2 hours and then ethanol was evaporated under reduced pressure. The resulting residue was cooled in an ice bath, acidified by adding dropwise a 1 M hydrochloric acid aqueous solution (15 ml) and then extracted with ethyl acetate (50 ml×3). All of the organic layers were combined, washed with a 1 N hydrochloric acid aqueous solution (50 ml) and saturated brine (50 ml) and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to obtain 0.935 g (quantitative) of the title compound as a colorless amorphous substance.

reactant | sodium hydride | 3.73 mmol, 0.149 g | [H-].[Na+]
reactant | 1-benzyloxycarbonyl-3-(S)-hydroxy-4-(R)-(1-ethoxycarbonylcyclopropyl)pyrrolidine | 2.92 mmol, 0.98 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H](C1)C1(CC1)C(=O)OCC)O | C18H23NO5
reactant | dimethyl sulfate | 4.66 mmol, 0.441 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | water | 0.5 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[1-Benzyloxycarbonyl-4-(R)-methoxy-3-(S)-pyrrolidinyl]cyclopropanecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)OC)C1(CC1)C(=O)O | C17H21NO5
